US08349851B2
A mixture of ethyl 4-chloroquinazoline-2-carboxylate (1 g, 4.2 mmol) in THF (50 mL) was filtered, and to the filtrate at −30° C. under Ar was added 0.5M (3,4-difluorophenyl)magnesium bromide/THF (10.4 mL, 5.2 mmol). The mixture was stirred at −30° C. for 1.5 h., at which time additional 0.5M (3,4-difluorophenyl)magnesium bromide/THF (3 mL) was added. After a further 1.5 h, additional 0.5M (3,4-difluorophenyl)magnesium bromide/THF (3 mL) was added. To the mixture was added saturated aq ammonium chloride and the mixture was allowed to warm to rt. The mixture was extracted with EtOAc (2×) and the combined organic layers were dried over Na2SO4, filtered, and concentrated under reduced pressure to afford (4-chloroquinazolin-2-yl)(3,4-difluorophenyl)methanone (330 mg, 26%), which was used directly in the next step.

reactant | ethyl 4-chloroquinazoline-2-carboxylate | 4.2 mmol, 1 g | ClC1=NC(=NC2=CC=CC=C12)C(=O)OCC | C11H9ClN2O2
reactant | (3,4-difluorophenyl)magnesium bromide THF | 5.2 mmol, 0.5M, 10.4 mL | FC=1C=C(C=CC1F)[Mg]Br.C1CCOC1
reactant | (3,4-difluorophenyl)magnesium bromide THF | 0.5M, 3 mL | FC=1C=C(C=CC1F)[Mg]Br.C1CCOC1
reactant | (3,4-difluorophenyl)magnesium bromide THF | 0.5M, 3 mL | FC=1C=C(C=CC1F)[Mg]Br.C1CCOC1
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (4-chloroquinazolin-2-yl)(3,4-difluorophenyl)methanone | 330 mg, 26% | ClC1=NC(=NC2=CC=CC=C12)C(=O)C1=CC(=C(C=C1)F)F | C15H7ClF2N2O
